US08791132B2
2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline (1 g, 5 mmol) was dissolved in 15 mL DMF and stirred for 10 min at 0° C. Sodium hydride (600 mg, 15 mmol) was added portionwise at RT and stirred for 10 min. 3-(2-Methyl-oxiranyl)-pyridine (1.01 g, 7.5 mmol) was added dropwise at the same temperature and the mixture stirred for 12 h at RT. The reaction was monitored by TLC & LCMS. After consumption of starting material, the reaction mixture was quenched with ice water and extracted with EtOAc (3×100 mL). The combined organic layer was washed with water (4×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated and the residue was crystallized in EtOH and ether to obtain 375 mg of 1-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-2-pyridin-3-yl-propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.76 (d, 1H), 8.55 (dd, 1H), 7.703 (d, 1H), 7.24 (s, 1H), 7.23 (dd, 1H), 7.15 (d, 1H), 6.95 (d, 1H), 4.13 (d, 1H), 4.08 (d, 1H), 3.38 (dd, 2H), 2.79 (q, 2H), 2.74 (q, 2H), 2.46 (s, 3H), 2.43 (s, 3H), 1.64 (s, 3H). Separation by chiral HPLC provided enantiomers 14a and 14b. Optical rotations: Compound 14a, (+)31.28 (c 0.58, Chloroform, 96.04% HPLC purity); Compound 14b, (−)27.23 (c 0.57, Chloroform, 96.09% HPLC purity).

reactant | 2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline | 5 mmol, 1 g | CN1CC=2NC3=CC=C(C=C3C2CC1)C | C13H16N2
reactant | Sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | 3-(2-Methyl-oxiranyl)-pyridine | 7.5 mmol, 1.01 g | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-2-pyridin-3-yl-propan-2-ol | 375 mg | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CC(C)(O)C=1C=NC=CC1 | C21H25N3O
